US06303593B1
Imidazo[1,2-a]pyridine-7-carboxylic acid
A solution of 0.16 g (0.634 mmol) of benzyl-imidazo[1,2-a]pyridine-7-carboxylate and 1.5 mL of a 1M aqueous solution of KOH (1.6 mmol) in 4 mL of CH3OH was stirred at rt for 2 h. The reaction mixture was made acidic with 1N HCl and partitioned between water and CH2Cl2. The organic fraction was dried over MgSO4 filtered and the filtrate was concentrated to give 0.1 g of the title compound.

reactant | benzyl-imidazo[1,2-a]pyridine-7-carboxylate | 0.634 mmol, 0.16 g | C(C1=CC=CC=C1)OC(=O)C1=CC=2N(C=C1)C=CN2 | C15H12N2O2
reactant | KOH | 1.6 mmol | [OH-].[K+]
reactant | HCl | 1N | Cl | ClH
solvent | CH3OH | 4 mL | CO | CH4O
product | Imidazo[1,2-a]pyridine-7-carboxylic acid | 0.1 g | N=1C=CN2C1C=C(C=C2)C(=O)O | C8H6N2O2
